US05449812
l) 2-Methoxycarbonyl-5-(N-methoxycarbonyl-N-methylamino)benzenesulfonyl isocyanate
5.0 g of 2-methoxycarbonyl-5-(N-methoxycarbonyl-N-methylamino)benzenesulfonamide are suspended in 17 ml of 1,2-dichloroethane. 4 ml of thionyl chloride are added and the reaction mixture is heated at boiling for 5 h. The reaction mixture is cooled to room temperature, 0.3 ml of pyridine is added, phosgene is passed into the reaction mixture, and the solution is heated at reflux for 4 h. The reaction mixture is concentrated to give 6.3 g of an oil which is employed directly in the subsequent reaction (Examples m, n, o).

reactant | 2-methoxycarbonyl-5-(N-methoxycarbonyl-N-methylamino)benzenesulfonamide | 5.0 g | COC(=O)C1=C(C=C(C=C1)N(C)C(=O)OC)S(=O)(=O)N | C11H14N2O6S
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | 1,2-dichloroethane | 17 ml | ClCCCl | C2H4Cl2
product | 2-Methoxycarbonyl-5-(N-methoxycarbonyl-N-methylamino)benzenesulfonyl isocyanate | 6.3 g | COC(=O)C1=C(C=C(C=C1)N(C)C(=O)OC)S(=O)(=O)N=C=O | C12H12N2O7S
